US06235730B1
Using 2-methylacetanilide (4.48 g) and 2-bromo-3-methylpyridine (10.3 g), a reaction was made in the same manner as in 1) of Production Example 14. The subsequent purification by silica gel column chromatography (developing solvent, ethyl acetate: hexane=1:3) produced 2-methyl-N-(3-methyl-2-pyridyl)acetanilide (7.2 g, crude product) as a pale brown oil.

reactant | 2-methylacetanilide | 4.48 g | CCC(=O)NC1=CC=CC=C1 | C9H11NO
reactant | 2-bromo-3-methylpyridine | 10.3 g | BrC1=NC=CC=C1C | C6H6BrN
product | 2-methyl-N-(3-methyl-2-pyridyl)acetanilide | 7.2 g | CCC(=O)N(C1=CC=CC=C1)C1=NC=CC=C1C | C15H16N2O
